US07919488B2
4-(4-fluorophenyl)-1-(1-trityl-1H-imidazol-4-yl)butane-1,3-dione
To a solution of 1-(1-trityl-1H-imidazol-4-yl)ethanone (1.5 g, 4.26 mmol) in anhydrous THF (25 mL) was added NaH (0.23 g, 8.52 mmol) at 0° C. The mixture was stirred at RT for 2 hours, and methyl (4-fluorophenyl)acetate (1.43 g, 12.78 mmol) was added at 0° C. The mixture was refluxed overnight. The mixture was evaporated and the residue was purified via column chromatography (silica gel, EtOAc/Petroleum ether 1:5) to yield the title compound (1.018 g, 48.0%) as colorless oil.

reactant | 1-(1-trityl-1H-imidazol-4-yl)ethanone | 4.26 mmol, 1.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C(C)=O | C24H20N2O
reactant | NaH | 8.52 mmol, 0.23 g | [H-].[Na+]
reactant | methyl (4-fluorophenyl)acetate | 12.78 mmol, 1.43 g | FC1=CC=C(C=C1)CC(=O)OC | C9H9FO2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4-(4-fluorophenyl)-1-(1-trityl-1H-imidazol-4-yl)butane-1,3-dione | 1.018 g, 48.0% | FC1=CC=C(C=C1)CC(CC(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C32H25FN2O2
